US04607041
(a) Ethyl 4,4,4-trichloro-2-(3-nitrophenylmethylene)-3-oxobutanoate
3-Nitrobenzaldehyde (7.55 g, 50 mmoles), ethyl 4,4,4-trichloro-3-oxobutanoate (18.33 g, 59.5 mmoles), piperidine (0.66 ml) and hexanoic acid (0.33 ml) were heated at reflux in toluene (130 ml) for 48 hours using a Dean and Stark apparatus. The mixture was cooled, evaporated to dryness in vacuo and crystallised by trituration with ethyl acetate/petroleum ether (60°-80°). Recrystallisation from 2-propanol gave the sub-title compound (5.3 g) mp 105.5°-7°.

reactant | 3-Nitrobenzaldehyde | 50 mmoles, 7.55 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl 4,4,4-trichloro-3-oxobutanoate | 59.5 mmoles, 18.33 g | ClC(C(CC(=O)OCC)=O)(Cl)Cl | C6H7Cl3O3
reactant | piperidine | 0.66 ml | N1CCCCC1 | C5H11N
reactant | hexanoic acid | 0.33 ml | C(CCCCC)(=O)O | C6H12O2
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4,4,4-trichloro-2-(3-nitrophenylmethylene)-3-oxobutanoate | 5.3 g | ClC(C(C(C(=O)OCC)=CC1=CC(=CC=C1)[N+](=O)[O-])=O)(Cl)Cl | C13H10Cl3NO5
